US08754079B2
(1S,2S) 4-{2-[2-(Acetyl-amino)-cyclopentyloxy]-4-fluoro-phenylamino}-5-methyl thieno[2,3-d]pyrimidine-6-carboxylic acid amide
0.15 g (1S,2S) 4-[2-(2-amino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl thieno[2,3-d]pyrimidine-6-carboxylic acid amide and 0.32 ml N,N-diisopropylethylamine were mixed with DCM. 0.027 g acetylchloride were added to the mixture and stirred for 1 hour at rt. Then the reaction mixture was diluted with water and filtrated. The solid was air-dried.

reactant | (1S,2S) 4-[2-(2-amino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl thieno[2,3-d]pyrimidine-6-carboxylic acid amide | 0.15 g | N[C@@H]1[C@H](CCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C19H20FN5O2S
reactant | N,N-diisopropylethylamine | 0.32 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | acetylchloride | 0.027 g | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | (1S,2S) 4-{2-[2-(Acetyl-amino)-cyclopentyloxy]-4-fluoro-phenylamino}-5-methyl thieno[2,3-d]pyrimidine-6-carboxylic acid amide | C(C)(=O)N[C@@H]1[C@H](CCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C21H22FN5O3S
